US09145404B2
First, methyl 6-[2-(3,4-diethoxyphenyl)thiazol-4-yl]pyridin-2-carboxylate (49 g; 127 mmol) and 10% sodium hydroxide (100 ml) were added to ethanol (1.4 L), and the obtained mixture was then stirred for 4 hours under heating to reflux. A majority of solvent was eliminated from the obtained solution, and water and ethyl acetate were then added to the residue for separation. The water layer obtained as a result of the separation was changed to acidic by addition of 10% hydrochloric acid, followed by extraction with ethyl acetate. Thereafter, the extract was quickly washed with a saturated sodium chloride aqueous solution, and was then dried over an excessive amount of magnesium sulfate. The obtained mixture was recrystallized from ethyl acetate, so as to obtain an anhydrous tetomilast type B crystal.

reactant | methyl 6-[2-(3,4-diethoxyphenyl)thiazol-4-yl]pyridin-2-carboxylate | 127 mmol, 49 g | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=CC=CC(=N1)C(=O)OC | C20H20N2O4S
reactant | sodium hydroxide | 100 ml | [OH-].[Na+]
reactant | ethanol | 1.4 L | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tetomilast | CCOC=1C=CC(=CC1OCC)C2=NC(=CS2)C=3C=CC=C(N3)C(=O)O | C19H18N2O4S
